US06831080B2
Step B: 6-(1-Hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
A solution of 6-acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.38 g, 5 mmol) in EtOH (20 mL) was treated with NH2OH.HCl (695 mg, 10 mmol). The resulting solution was stirred at 23° C. for 3 hours in the presence of Amberlist A-21 (2.0). Then the mixture was filtered and the solvent evaporated. The residue was dissolved in EtOAc, washed with aqueous NaHCO3 and then brine. After drying (MgSO4), the organic layer was concentrated and the crude oxime purified by chromatography (SiO2, 10-25% EtOAc in hexane) to give 1.4 g (90%) of the title compound as a white solid. m.p: 127-129° C.

reactant | 6-acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 5 mmol, 1.38 g | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)C(C)=O | C16H21NO3
reactant | NH2OH.HCl | 10 mmol, 695 mg | NO.Cl
solvent | EtOH | 20 mL | CCO | C2H6O
product | 6-(1-Hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 1.4 g, 90% | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)C(C)=NO | C16H22N2O3
